US05332757
Using an analogous procedure to that described in Example 43, 7-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yloxymethyl]chroman-4-one was reacted with hydroxylamine hydrochloride to give 7-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yl-oxymethyl]chroman-4-one oxime in 79% yield, m.p. 224°-228° C.;

reactant | 7-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yloxymethyl]chroman-4-one | NC1=NC(=CC(=N1)OCC1=CC=C2C(CCOC2=C1)=O)C1(CCOCC1)OC | C20H23N3O5
reactant | hydroxylamine hydrochloride | Cl.NO
product | 7-[2-amino-6-(4-methoxytetrahydropyran-4-yl)pyrimidin-4-yl-oxymethyl]chroman-4-one oxime | 79% yield | NC1=NC(=CC(=N1)OCC1=CC=C2C(CCOC2=C1)=NO)C1(CCOCC1)OC | C20H24N4O5
